US09120749B2
1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)ethanone
To a suspension of tert-butyl (trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate (38 mg, 0.072 mmol) in THF (3 mL) was added water (2 mL) and 6N aqueous HCl (2 mL). The resultant solution was heated at 65° C. for 4 h. The reaction mixture was cooled and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% methanol/water with 0.05% TFA). The residue was eluted through an ion-exchange column (using methanol and 7 N methanol in ammonia) to obtain the desired product (18.1 mg, 59%) as a yellow solid. 1H NMR (500 MHz, MeOD+TFA-d) δ 9.12 (s, 1H), 8.47 (s, 1H), 8.32-8.26 (m, 1H), 7.99 (d, J=8.7 Hz, 1H), 7.59 (s, 1H), 7.52 (d, J=11.5 Hz, 1H), 4.57-4.53 (m, 1H), 2.74 (s, 3H), 2.51 (d, J=12.3 Hz, 2H), 2.26 (d, J=12.3 Hz, 2H), 1.87 (q, J=12.5 Hz, 2H), 1.71-1.62 (m, 2H). ESI MS m/z 428 [C23H23ClFN3O2+H]+; HPLC>99% (AUC), tR=9.43 min.

reactant | tert-butyl (trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate | 0.072 mmol, 38 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)O)Cl | C28H31ClFN3O4
reactant | water | 2 mL | O | H2O
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)ethanone | 18.1 mg, 59% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(C)=O | C23H23ClFN3O2
